US05773240
Escherichia coli MR-2103 (FERM BP-3835) was seeded on 50 ml of LB medium (1% polypeptone, 0.5% yeast extract, 0.5% NaCl) containing 50 μg/ml ampicillin and cultured at 37° C. for 20 hours under shaking. After the completion of the cultivation, the culture solution was centrifuged. The total volume of the cells harvested were washed with ion-exchanged water and then suspended in 50 ml of 50 mM phosphate buffer (pH 7.0). To this cell suspension, 5 g of racemic methyl α-methylhexanoate was added and reacted at 30° C. for 20 hours. During the reaction, the pH of the reaction solution was adjusted at 7.0 using in NaOH aqueous solution. After the completion of the reaction, cells were removed by centrifugation and unreacted methyl α-methylhexanoate was extracted with ethyl acetate. The organic layer was dehydrated by adding thereto anhydrous sodium sulfate and the solvent was removed by evaporation. The organic layer was further distilled and purified to thereby obtain 1.9 g of optically active methyl α-methylhexanoate. The specific rotation of this optically active methyl α-methylhexanoate was measured and found to be [α]25 D =+16.3. Then, after the pH of the aqueous layer was lowered to 2.0 with dilute sulfuric acid, the acid in the aqueous layer was extracted with ethyl acetate. The organic layer was dehydrated by adding thereto anhydrous sodium sulfate and the solvent was removed by evaporation. The organic layer was further distilled and purified to thereby obtain 1.3 g of optically active α-methylhexanoic acid. The specific rotation of this sample was measured and found to be [α]25 D =-16.3.

reactant | methyl α-methylhexanoate | CC(C(=O)OC)CCCC | C8H16O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | α-methylhexanoic acid | CC(C(=O)O)CCCC | C7H14O2
